US07141586B2
1-Methoxy-3-methylsulfanyl-benzene (32.87 g, 0.213 mol) was dissolved in a mixture of 30% hydrogen bromide in acetic acid (96 ml) and 48% aqueous hydrobromic acid (24 ml). The reaction was heated to reflux, and stirred at this temperature under nitrogen for 5.5 h. After cooling to room temperature the reaction mixture was poured into water (600 ml) and extracted with diethylether (3×300 ml). The combined organic extracts were washed with water (2×150 ml), brine (100 ml), dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of ethyl acetate:pentane (1:19 changing to 3:37 then 1:9, by volume) and the product was azeotroped with toluene (2×100 ml) to give 3-Methylsulfanyl-phenol (19.3 g) as a crimson oil.

reactant | 1-Methoxy-3-methylsulfanyl-benzene | 0.213 mol, 32.87 g | COC1=CC(=CC=C1)SC | C8H10OS
reactant | water | 600 ml | O | H2O
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | 96 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 24 ml | Br | BrH
product | 3-Methylsulfanyl-phenol | 19.3 g | CSC=1C=C(C=CC1)O | C7H8OS
